US07705027B2
1-Methyl-4-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-piperazine
To a solution of PdCl2 (dppf). DCM (10 mg, 0.012 mmol) in anhydrous toluene (4 ml) in an argon filled sealed microwave tube was added the 1-(3-Bromo-phenyl)-4-methyl-piperazine (100 mg, 0.39 mmol), Et3N (0.11 ml, 2 equiv.), and 4,4,5,5-tetramethyl-1,3,2-dioxaborolane (0.09 ml, 1.5 equiv). The microwave tube was evacuated and backfilled with Argon before being irradiated in a CEM Microwave reactor at 100° C. for 1 hr using an initial power of 200 W. The reaction mixture was partitioned between more toluene (6 ml) and water (10 ml), the organic layer separated, washed with water (1×10 ml), dried over MgSO4 and then evaporated in vacuo to leave a purple/brown residue which was used for suzuki coupling without further purification.

reactant | DCM | 0.012 mmol, 10 mg | C(Cl)Cl | CH2Cl2
reactant | 1-(3-Bromo-phenyl)-4-methyl-piperazine | 0.39 mmol, 100 mg | BrC=1C=C(C=CC1)N1CCN(CC1)C | C11H15BrN2
reactant | Et3N | 0.11 ml, 2 equiv. | CCN(CC)CC | C6H15N
reactant | 4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.09 ml, 1.5 equiv | CC1(OBOC1(C)C)C | C6H13BO2
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
catalyst | PdCl2 | Cl[Pd]Cl
product | 1-Methyl-4-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-piperazine | CN1CCN(CC1)C1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C | C17H27BN2O2
